US08222246B2
d) 6-[3-Pyridin-2-yl-5-([E]-styryl)-isoxazol-4-ylmethoxy]-nicotinonitrile
To a solution of [3-pyridin-2-yl-5([E]-styryl)-isoxazol-4-yl]-methanol (1.5 g, 5 mmol) in DMF (30 mL) was added 6-chloro-3-pyridine-carbonitrile (0.82 g, 6 mmol) and sodium hydride (0.26 g of a 55% dispersion in mineral oil, 6 mmol). The mixture was stirred at 70° C. for 3 h. Then the temperature was raised to 90° C. for 1 h. After evaporation of the solvent the residue was partitioned (ethyl acetate/brine) and the organic phase was dried (Na2SO4) and filtered. Evaporation of the solvent followed by trituration with diisopropylether afforded the title compound (1.8 g, 88%) as a light brown solid. MS: m/e=381.3 [M+H]+.

reactant | [3-pyridin-2-yl-5([E]-styryl)-isoxazol-4-yl]-methanol | 5 mmol, 1.5 g | N1=C(C=CC=C1)C1=NOC(=C1CO)\C=C\C1=CC=CC=C1 | C17H14N2O2
reactant | 6-chloro-3-pyridine-carbonitrile | 6 mmol, 0.82 g | ClC1=CC=C(C=N1)C#N | C6H3ClN2
reactant | sodium hydride | [H-].[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 6-[3-Pyridin-2-yl-5-([E]-styryl)-isoxazol-4-ylmethoxy]-nicotinonitrile | 1.8 g, 88% | N1=C(C=CC=C1)C1=NOC(=C1COC1=NC=C(C#N)C=C1)\C=C\C1=CC=CC=C1 | C23H16N4O2
